US06992087B2
Preparation of (5Z)-6,7-dihydro-5H-cyclopenta[b]pyridin-5-one oxime
Following the procedure for the preparation of (4E)-2,3-dihydro-4H-chromen-4-one oxime but substituting 6,7-dihydro-5H-cyclopenta[b]pyridin-5-one and making non-critical variations provided the title compound as a oil: 1H NMR (400 MHz, DMSO-d6) δ) 11.11, 8.50, 7.89, 7.27, 3.04, 2.81; HRMS (EI) calcd for C8H8N2O 148.0637, found 148.0628.

reactant | (4E)-2,3-dihydro-4H-chromen-4-one oxime | O1CC\C(\C2=CC=CC=C12)=N/O | C9H9NO2
reactant | 6,7-dihydro-5H-cyclopenta[b]pyridin-5-one | N1=C2C(=CC=C1)C(CC2)=O | C8H7NO
product | (5Z)-6,7-dihydro-5H-cyclopenta[b]pyridin-5-one oxime | N1=C2C(=CC=C1)\C(\CC2)=N/O | C8H8N2O
